Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catherization

 
History of Present Illness:
___ with HTN, HL, glucose intolerance, OSA w/ intermittent use 
of CPAP w/ left sided chest pain ___ since last night that 
radiated to the left arm and neck while taking a walk. He had 
this pain intermittently for several days prior but it quickly 
went away with rest. Prior to these episodes he had never had 
this kind of pain beforehand. He described it as better when he 
lay flat, but does no increase with palpation or deep breathing. 
He denies SOB, diaphoresis or recent illness. He does endorse 
chronic bilateral lower ext edema.  
.  
In the ED, initial vitals were 97.6 82 159/80 16 99% RA  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes (prediabetes with A1c 6.3%, 
+Dyslipidemia, +Hypertension (on nifedipine)  
2. CARDIAC HISTORY:  
-CABG: none  
-PERCUTANEOUS CORONARY INTERVENTIONS: none  
-PACING/ICD: none  
3. OTHER PAST MEDICAL HISTORY:  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death;  
.Mother had a stent placed when she was ___.  

 
Physical Exam:
VS: T=97.5 131/79 65 18 98%RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVP elevation
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e, trace pitting edema bilaterally. No 
femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
Labs on admission:

___ 10:15AM   ___ PTT-28.3 ___
___ 10:15AM   PLT COUNT-233
___ 10:15AM   NEUTS-56.2 ___ MONOS-4.0 EOS-15.3* 
BASOS-0.8
___ 10:15AM   WBC-5.6 RBC-4.65 HGB-14.7 HCT-41.3 MCV-89 
MCH-31.6 MCHC-35.5* RDW-12.7
___ 10:15AM   cTropnT-<0.01
___ 10:15AM   CK(CPK)-152
___ 10:15AM   estGFR-Using this
___ 10:15AM   GLUCOSE-136* UREA N-18 CREAT-1.0 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-26 ANION GAP-16
___ 08:49PM   CK-MB-15* MB INDX-7.4* cTropnT-0.07*
___ 08:49PM   CK(CPK)-204
.
.
.
.
Labs at discharge:

___ 06:35AM BLOOD WBC-6.6 RBC-4.55* Hgb-14.1 Hct-40.8 
MCV-90 MCH-31.0 MCHC-34.6 RDW-12.7 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD
___ 06:35AM BLOOD Glucose-105* UreaN-14 Creat-1.0 Na-136 
K-3.9 Cl-101 HCO3-28 AnGap-11
___ 06:35AM BLOOD CK-MB-9
___ 09:30PM BLOOD CK-MB-7
___ 04:45AM BLOOD CK-MB-14* MB Indx-6.1* cTropnT-0.15*
___ 02:15AM BLOOD CK-MB-15* MB Indx-6.5* cTropnT-0.13*
___ 08:49PM BLOOD CK-MB-15* MB Indx-7.4* cTropnT-0.07*
___ 10:15AM BLOOD cTropnT-<0.01

.
.
.
.
Imaging Studies:
ECHO
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF>55%). There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
.
.
CATH
(report pending)
.
.
.
CTA 
Impression: 
1. Normal left ventricular cavity size with normal regional left 
ventricular 
systolic function. The LVEF was normal at 57%.  
2. Mild to moderate left atrial enlargement. 
3. Normal coronary artery origins with no evidence of anomalous 
coronary 
arteries. Diffuse calcified, non-calcified and mixed coronary 
artery plaque 
with probable severe stenosis of the LAD and LCx and possible 
severe stenosis 
of the LCx. 

 
Brief Hospital Course:
___ yoM with HL, HTN, OSA and prediabetes presents with chest 
pain and found to have CTA coronaries with severe stenoses noted 
in LAD and Circ. 
.  
# CORONARIES:  by CTA appears to have significant stenoses in 
LAD and CIRC, although no EKG changes on admission consistent 
with ischemia. ___ set of troponins negative. Trop, CKMB 
elevated overnight and heparin started. EKG done at time did not 
show ST changes. He underwent Cardiac cath with balloon 
angioplasty without stent placement and discharged on aspirin, 
metoprolol, atorvastatin and plavix for 12 mos. 
.  
# PUMP:  EF calculate to be normal on last ECHO ___ (60-70%) 
with calculated LVEF of 57% by CTA. No signs/symptoms of volume 
overload.Repeat ECHO on this admit showed EF >55%.
.  
# RHYTHM:  in normal sinus rhythm, no arrythmias noted on this 
admission.
.  
#  HL: patient on dietary/lifestyle modifications. CHOL 209, HLD 
43, LDL 132, Triglyceride 170. Started Atorvastatin 80mg daily 
which was to continue as outpatient.
.  
#  DM: patient prediabetic with A1C 6.3%, not taking medications 
to control diabetes as outpatient. Maintained on ___ QACHS with 
SS humalog. Not discharged on any diabetes medications.
.
.
############################
.
Transitional issues:
1. Prediabetes: monitoring A1c for and starting 
metformin/sulfonylurea if elevated for overall risk reduction.
2. Ensuring complicance with asa/plavix.
.  
 
Medications on Admission:
NIFEDIPINE - 30 mg Tablet Extended Rel 24 hr - 1 Tablet(s) by
mouth once a day
TADALAFIL [CIALIS] -  (Prescribed by Other Provider) - Dosage
uncertain
TESTOSTERONE ENANTHATE -  (Prescribed by Other Provider) - 
Dosage
uncertain
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
4. fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
5. Plavix 75 mg Tablet Sig: One (1) Tablet PO once a day: please 
take every day for 12 months.
Disp:*30 Tablet(s)* Refills:*12*
6. lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
-non ST elevation myocardial infarction
.
Secondary:
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
You were admitted to the ___ for 
evaluation of chest pain. Based on blood work, it became 
apparent that your pain was coming from blocked cardiac 
arteries. You underwent a cardiac catherization the morning 
after admission that showed that you had a narrowed coronary 
artery. A balloon was placed to open up the artery. This 
procedure restored better flow to your artery. You were observed 
for 24 hours and were deemed stable for discharge home. 
.
You should not do any heavy lifting or vigorous exercise for 1 
week.
.
During your hospitalization, some of your medications changed. 
Please START taking the following:
- aspirin 325mg daily
- plavix 75mg daily**** Take this medication every day until 
advised otherwise*** 
- atorvastatin 80mg daily
- metoprolol 25mg BID

Please STOP:
- Nifedipine (as this may lower your blood pressure too much 
while taking metoprolol, please discuss restarting this 
medication with your doctors)

It is important that you take these medications every day. It is 
especially important that you do not stop taking plavix as this 
may cause another blocked artery in your cardiac vessels. 

You should follow up with your cardiologist. 

 
Followup Instructions:
___